US07371743B2
(e) 3-chloro-4-(4-methyl-2-oxo-oxazolidin-3-yl)-benzoic acid
0.90 g (3.17 mmol) ethyl 3-chloro-4-(4-methyl-2-oxo-oxazolidin-3-yl)-benzoate are stirred for 1 hour in 50 ml of methanol with 10 ml 1-molar aqueous lithium hydroxide solution at ambient temperature. The mixture is then evaporated down to 20 ml i. vac., acidified with conc. hydrochloric acid and extracted with ethyl acetate. The combined organic phases are washed with sat. sodium chloride solution, dried over sodium sulphate and evaporated down i. vac. The residue is crystallised from a little diethyl ether and suction filtered.

reactant | ethyl 3-chloro-4-(4-methyl-2-oxo-oxazolidin-3-yl)-benzoate | 3.17 mmol, 0.90 g | ClC=1C=C(C(=O)OCC)C=CC1N1C(OCC1C)=O | C13H14ClNO4
reactant | lithium hydroxide | 1-molar, 10 ml | [OH-].[Li+]
solvent | methanol | 50 ml | CO | CH4O
product | 3-chloro-4-(4-methyl-2-oxo-oxazolidin-3-yl)-benzoic acid | ClC=1C=C(C(=O)O)C=CC1N1C(OCC1C)=O | C11H10ClNO4
